US04207327
4-Nitro-N-(1,2-diethyl-4-pyrazolidinyl)benzamide Hydrochloride.
To a solution of 40.5 g (0.28 mole) of 4-amino-1,2-diethylpyrazolidine in 200 ml of chloroform was added with stirring 52 g (0.28 mole) of p-nitrobenzoyl chloride in 200 ml chloroform. The solution was allowed to stand overnight and then extracted with dilute sodium hydroxide. The chloroform was dried (sodium sulfate) and concentrated. The residue was crystallized twice from isopropyl etherethyl acetate to give 73 g. (80%) of the free base.

reactant | 4-amino-1,2-diethylpyrazolidine | 0.28 mole, 40.5 g | NC1CN(N(C1)CC)CC | C7H17N3
reactant | p-nitrobenzoyl chloride | 0.28 mole, 52 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Nitro-N-(1,2-diethyl-4-pyrazolidinyl)benzamide Hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C(=O)NC2CN(N(C2)CC)CC)C=C1 | InChI=1S/C14H20N4O3.ClH/c1-3-16-9-12(10-17(16)4-2)15-14(19)11-5-7-13(8-6-11)18(20)21;/h5-8,12H,3-4,9-10H2,1-2H3,(H,15,19);1H
